US04247549
Synthesis of 1-(1,1-dimethylpropynoxycarbonyl)piperazine
A stirred mixture of 25.8 g (0.3 mole) of piperazine and 30.6 (0.15 mole) of 1,1-dimethylpropynoxyphenyl carbonate was heated at 90° for 18 hrs. The reaction mixture was cooled and partitioned between excess 5% NaOH solution and 100 ml of CH2Cl2. The layers were separated and the water layer extracted twice more with 100 ml portions of CH2Cl2. The organic extracts were dried (MgSO4), filtered and evaporated to an orange oil. Distillation through a 4-inch Vigreaux column gave 18.3 g (62%) of light yellow oil which solidified on standing, m.p. 35°-8°. The hydrochloride salt prepared in ether and recrystallized from acetonitrile had a m.p. of 193°-4° dec. Calc. for C10H17ClN2O2 (232.71): C, 51.61; H, 7.36; Cl, 15.23; N, 12.04. Found: C, 51.37; H, 7.39; Cl, 15.19; N, 11.92.

reactant | piperazine | 0.3 mole, 25.8 g | N1CCNCC1 | C4H10N2
reactant | 1,1-dimethylpropynoxyphenyl carbonate | C(OC1=C(C=CC=C1)OC(C#C)(C)C)([O-])=O
reactant | ether | CCOCC | C4H10O
product | 1-(1,1-dimethylpropynoxycarbonyl)piperazine | CC(C#C)(OC(=O)N1CCNCC1)C | C10H16N2O2
